US05576335
To a solution of N-(4-dimethylaminophenyl)-2-(3-heptylureido)benzamide (0.70 g) in ethanol (10 ml) was added 4N-HCl/ethyl acetate solution (0.48 ml) under ice-cooling, and the mixture was concentrated to dryness to give N-(4-dimethylaminophenyl)-2-(3-heptylureido)benzamide monohydrochloride (0.77 g, 99%) as a non-crystallizable solid.

reactant | N-(4-dimethylaminophenyl)-2-(3-heptylureido)benzamide | 0.70 g | CN(C1=CC=C(C=C1)NC(C1=C(C=CC=C1)NC(=O)NCCCCCCC)=O)C | C23H32N4O2
reactant | HCl ethyl acetate | 0.48 ml | Cl.C(C)(=O)OCC
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | N-(4-dimethylaminophenyl)-2-(3-heptylureido)benzamide monohydrochloride | 0.77 g, 99% | Cl.CN(C1=CC=C(C=C1)NC(C1=C(C=CC=C1)NC(=O)NCCCCCCC)=O)C | InChI=1S/C23H32N4O2.ClH/c1-4-5-6-7-10-17-24-23(29)26-21-12-9-8-11-20(21)22(28)25-18-13-15-19(16-14-18)27(2)3;/h8-9,11-16H,4-7,10,17H2,1-3H3,(H,25,28)(H2,24,26,29);1H
